US06797726B1
In 17.4 mL of methylene chloride is suspended 1.74 g of 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-acetic acid, to which is added 13.8 mL of 1 mol/L solution of boron trifluoride in methylene chloride. The mixture is stirred at ambient temperature for 3 hours. The reaction mixture is introduced into a mixture of methylene chloride and water and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. Thus, 1.42 g of 2-(6-fluoro-7-hydroxybenzo[b]thiophen-5-yl)-acetic acid is obtained as a gray-colored crystalline product.

reactant | 2-(6-fluoro-7-methoxybenzo[b]thiophen-5-yl)-acetic acid | 1.74 g | FC=1C(=CC2=C(SC=C2)C1OC)CC(=O)O | C11H9FO3S
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | water | O | H2O
solvent | methylene chloride | 17.4 mL | C(Cl)Cl | CH2Cl2
product | 2-(6-fluoro-7-hydroxybenzo[b]thiophen-5-yl)-acetic acid | 1.42 g | FC=1C(=CC2=C(SC=C2)C1O)CC(=O)O | C10H7FO3S
